US04272437
4-Azidopentanoyl chloride
A mixture of crude 4-azidopentanoic acid (8.0 g, 56 mmol) and thionyl chloride (10 g 84 mmol) was heated at 40°-45° C. for 1.5 h, followed by evaporation of excess thionylchloride in vacuo. The residual oil was distilled to give 6.8 g (75%) of the title compound, bp 60°-65° C./0.3 mm: 1Hmr (CDCl3) δ: 3.55 (1H, q, J=13 Hz), 3.03 (2H, t, J=13 Hz), 1.9 (2H, t, J=13 Hz and 1.3 ppm (3H, d, J=13 Hz); ir (neat) νmax : 2100, 1792 cm-1.

reactant | 4-azidopentanoic acid | 56 mmol, 8.0 g | N(=[N+]=[N-])C(CCC(=O)O)C | C5H9N3O2
reactant | thionyl chloride | 84 mmol, 10 g | S(=O)(Cl)Cl | Cl2OS
product | 4-Azidopentanoyl chloride | 6.8 g, 75% | N(=[N+]=[N-])C(CCC(=O)Cl)C | C5H8ClN3O
